US08067445B2
Step 4: {2′-[(Acetyl-ethyl-amino)-methyl]-5-chloro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (5-chloro-2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester and acetyl chloride.

reactant | (5-chloro-2′-ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H21ClF3NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {2′-[(Acetyl-ethyl-amino)-methyl]-5-chloro-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C)=O)=O | C22H23ClF3NO3
